US05382380
A reaction vessel was charged with 1.1 g of 4-hydroxy-4'-bromobiphenyl, 20 ml of 2-butanone, 1.2 g of potassium carbonate and 0.95 g of (S)-4-methylhexyl bromide, and the mixture was refluxed with stirring until TLC showed the disappearance of the starting materials. It took 10 hours for this. The reaction liquid was filtered to remove solids and the filtrate was concentrated. The residue was dried under reduced pressure to obtain 1.4 g (93%) of (S)-4-(4-methylhexyl)oxy-4'-bromobiphenyl.

reactant | 4-hydroxy-4'-bromobiphenyl | 1.1 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H9BrO
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-4-methylhexyl bromide | 0.95 g | C[C@H](CCCBr)CC | C7H15Br
solvent | 2-butanone | 20 ml | CC(CC)=O | C4H8O
product | (S)-4-(4-methylhexyl)oxy-4'-bromobiphenyl | 1.4 g, 93% | C[C@H](CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)Br)CC | C19H23BrO
